Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
aspirin / peanuts
 
Attending: ___.
 
Chief Complaint:
Atrial Flutter, Fatigue 
 
Major Surgical or Invasive Procedure:
TEE/DCCV ___

 
History of Present Illness:
Mr. ___ is a ___ y.o. gentleman w/ a h/o asthma who
presents after recently discovered atrial flutter.

Pt recently retired and notes that he has been running more
recently; notes that he runs ___ miles/week. Approximately 3
weeks ago when he was running (wears a heart monitor when
running) he noted that his heart rates would increase from
120s-130s up to the 230s. Denied any associated chest pain,
difficulty breathing, palpitations at the time. Pt initially
dismissed symptoms; however 1 week ago on ___ was at a bar and
felt palpitations + dizziness/lightheadedness. Noted that he was
unable to speak for approximately 1 minute before he returned to
his baseline per his wife w/o any residual deficits. Noted that
he has had 2 of these episodes in the past after waking up 
sleep.
Pt later presented to his PMD on ___ w/ EKGs notable for atrial
flutter at that time; he initiated work-up w/ CXR + TTE (pending
at time of admission). At that time noted to have ventricular
rates in ___ and given CHADS-VASC 0 anti-coagulation deferred at
that time. 

Noted that over the past week he has had worsened energy +
fatigue and reports that he is fearful to run now because of the
new diagnosis; reports feeling that he "is not feeling like
myself". Electrophysiology consulted for assistance w/ 
management
of atrial flutter. At time of exam pt endorsed some mild 
fatigue,
decreased energy but denied chest pain, difficulty breathing,
palpitations. 

 
Past Medical History:
#Asthma
#L4-L5 herniated disk w/ left sided sciatica 
 
Social History:
___
Family History:
maternal grandfather w/ CVAs in ___, ___ 
Family history of a blood clot his uncle, aunt and his father
 
Physical ___:
On Admission: 
General: pleasant, NAD, comfortable appearing 
HEENT: OP clear MMM no ulcers/lesions noted
NECK:  No JVD appreciated 
CARDIAC: RRR S1S2 no m/r/g 
LUNGS: CTAB good air exchange throughout no crackles/wheezing
noted
ABDOMEN: Soft, non-tender, non-distended, BS+
EXTREMITIES: No edema noted bilateral lower extremities,
bilateral upper and lower extremities warm and well perfused
NEURO: A&Ox3, moving bilateral upper and lower extremities

At Discharge: 
VS: 98.4 PO, 126 / 82 L Sitting, 53, 16, 95%RA 
Weight: 196.43 lbs
General: pleasant, NAD, comfortable appearing 
HEENT: OP clear MMM no ulcers/lesions noted
NECK:  No JVD appreciated 
CARDIAC: RRR S1S2 no m/r/g 
LUNGS: CTAB good air exchange throughout no crackles/wheezing
noted
ABDOMEN: Soft, non-tender, non-distended, BS+
EXTREMITIES: No edema noted bilateral lower extremities,
bilateral upper and lower extremities warm and well perfused
NEURO: A&Ox3, moving bilateral upper and lower extremities
Access: None.

 
Pertinent Results:
___ Imaging CHEST (PA & LAT) 
FINDINGS:  
Lungs are fully expanded and clear.  Cardiomediastinal and hilar 
silhouettes and pleural surfaces are normal.  There is no 
pleural effusion.  There is no pneumothorax.  There is no focal 
consolidation to suggest pneumonia.  
IMPRESSION:  
No acute cardiopulmonary process, notably no pneumonia. 

___ 02:00PM BLOOD WBC-7.3 RBC-4.90 Hgb-15.3 Hct-45.2 MCV-92 
MCH-31.2 MCHC-33.8 RDW-11.8 RDWSD-39.9 Plt ___
___ 02:00PM BLOOD Neuts-66.4 ___ Monos-8.9 Eos-1.6 
Baso-1.0 Im ___ AbsNeut-4.83 AbsLymp-1.60 AbsMono-0.65 
AbsEos-0.12 AbsBaso-0.07
___ 02:00PM BLOOD ___ PTT-26.6 ___
___ 02:00PM BLOOD Glucose-92 UreaN-17 Creat-1.0 Na-141 
K-4.5 Cl-101 HCO3-27 AnGap-13
___ 02:00PM BLOOD cTropnT-<0.01
___ 02:00PM BLOOD Calcium-9.7 Phos-3.4 Mg-2.0
___ 02:00PM BLOOD TSH-1.___ w/ a h/o asthma who presents after recently discovered 
atrial flutter.

#Atrial Flutter: symptomatic with worsened fatigue and energy in 
past weeks. Pt with CHADs-VASC of 0. EKGs appeared to be c/w 
possible clockwise reentry flutter given upright P-waves in II, 
III, AVF and inverted waves in V1. Discussed w/
EP team re: potential treatment options including 
TEE/cardioversion vs. possible ablation. The patient was briefly 
on heparin gtt, then patient was started on Apixaban, 1st dose 
___ AM. Underwent TEE (no thrombus) and successful DCCV 
morning of ___. Remains in SB/SR ___, stable BP, feeling 
well. 
 - Continue apixaban 5mg BID 
 - f/u ___ later this month

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Albuterol Inhaler 2 PUFF IH Q4H:PRN wheezing 
2. Multivitamins 1 TAB PO DAILY 

 
Discharge Medications:
1.  Apixaban 5 mg PO BID  
2.  Albuterol Inhaler 2 PUFF IH Q4H:PRN wheezing  
3.  Multivitamins 1 TAB PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Atrial Flutter 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
 Dear Mr. ___,  

 It was a pleasure taking care of you at the ___ 
___!  

 WHY WAS I IN THE HOSPITAL?  
 ==========================  
 - You were admitted because you had an abnormal heart rhythm, 
atrial flutter.  

 WHAT HAPPENED IN THE HOSPITAL?  
 ==============================  
 - You were started on blood thinning medicine (apixaban) to 
reduce stroke risk related to atrial flutter. 
 - You had a transesophageal echocardiogram (TEE) that showed no 
blood clot has formed in the heart. 
 - You then had a cardioversion procedure which corrected your 
heart rhythm back to a normal sinus rhythm. 

 WHAT SHOULD I DO WHEN I GO HOME?  
 ================================  
 - Take all of your medications as prescribed (listed below).  
 - Particularly, you are now taking apixaban to reduce your risk 
of stroke. It is very important that you continue this medicine 
without missed doses. Your cardiologist will decide the ultimate 
duration of apixaban. 
 - Follow up with your doctors as listed below  
 
If you have any urgent questions that are related to your 
recovery from your procedure or are experiencing any symptoms 
that are concerning to you, please call the ___ heartline at 
___ to speak to a cardiologist or cardiac nurse 
practitioner.  

It was a pleasure participating in your care. We wish you the 
best!
  
 -Your ___ Care Team  

 
Followup Instructions:
___